US04394515
8-Chlorodibenzo[b,f]thiepin-3-carboxylic Acid
550 Mg. 8-chloro-3-cyanodibenzo[b,f]thiepin is refluxed for 16 hours in a mixture of 15 cc. acetic acid and 15 cc. 50% aqueous sulfuric acid. The reaction mixture is cooled down and the product filtered, washed with water, and dried to yield 485 mg. (82% of the pure acid, m.p. 302°-304° C.

reactant | 8-chloro-3-cyanodibenzo[b,f]thiepin | ClC=1C=CC2=C(C=CC3=C(S2)C=C(C=C3)C#N)C1 | C15H8ClNS
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 8-Chlorodibenzo[b,f]thiepin-3-carboxylic Acid | ClC=1C=CC2=C(C=CC3=C(S2)C=C(C=C3)C(=O)O)C1 | C15H9ClO2S
